US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (70 mg) is dissolved in ethanol (2 ml), and thereto is added 1N-aqueous sodium hydroxide solution (0.5 ml) and the mixture is stirred at room temperature for 1 hour. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (62 mg). The resulting carboxylic acid is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (85 μl) and the reaction solution is concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid sodium salt (729 mg). MS (m/z): 729 [M−Na]−

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 70 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=NC(=CC=C2OC)C(C)C)C=C(C1)C(F)(F)F)(F)F | C36H35F9N4O4
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(6-isopropyl-3-methoxy-pyridin-2-yl)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 62 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=NC(=CC=C2OC)C(C)C)C=C(C1)C(F)(F)F)(F)F | C34H31F9N4O4
